US08461163B2
N-(7-butoxypyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-hydroxypropan-2-yl)benzamide (286)
Sodium metal was added to dry butanol (5 mL, 54.6 mmol) at 0° C. then the reaction was raised to room temperature. Then, the next day, a solid precipitated. Stir N-(7-chloropyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-hydroxypropan-2-yl)benzamide (100 mg, 0.302 mmol) in dry butanol (5 mL). Add the previously made sodium butoxide (58 mg, 0.605 mmol) at 0° C. then raise to room temperature. After stirring overnight, the majority of the reaction was converted to product. Deamination was observed where the amide bond of the compound was cleaved. The compound was filtered and purified by preparatory HPLC 40-50% (MeCN/H2O gradient+0.01% TFA). Received 29.1 mg of a white solid (26%). 1H NMR (DMSO-d6) δ: 11.08 (s, 2H), 8.09 (d, J=2.3 Hz, 2H), 8.01 (d, J=8.6 Hz, 4H), 7.61 (d, J=8.6 Hz, 4H), 7.54 (s, 2H), 6.40 (d, J=2.0 Hz, 2H), 5.19 (s, 2H), 4.46 (t, J=6.4 Hz, 4H), 1.79-1.98 (m, 4H), 1.49-1.62 (m, 4H), 1.46 (s, 12H), 0.99 (t, J=7.5 Hz, 3H). ESI-MS: m/z 369.4 (M+H)+.

reactant | Sodium | [Na] | Na
reactant | N-(7-chloropyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-hydroxypropan-2-yl)benzamide | 0.302 mmol, 100 mg | ClC1=CC(=NC=2N1N=CC2)NC(C2=CC=C(C=C2)C(C)(C)O)=O | C16H15ClN4O2
reactant | sodium butoxide | 0.605 mmol, 58 mg | [O-]CCCC.[Na+]
solvent | butanol | 5 mL | C(CCC)O | C4H10O
solvent | butanol | 54.6 mmol, 5 mL | C(CCC)O | C4H10O
product | N-(7-butoxypyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-hydroxypropan-2-yl)benzamide | C(CCC)OC1=CC(=NC=2N1N=CC2)NC(C2=CC=C(C=C2)C(C)(C)O)=O | C20H24N4O3
